US04564478
240 g (2 moles) of acetophenone were dissolved in 300 ml of chloroform and, after addition of 3 ml of ethanol and 109 g (0.64 mole) of fluorodichloromethanesulphenyl chloride, the mixture was heated to the reflux temperature. A further 400 g (2.36 moles) of fluorodichloromethane-sulphenyl chloride were added dropwise in the course of 30 minutes and the mixture was then heated under reflux for 5 hours. For subsequent working up, the reaction mixture was subjected to fractional distillation under reduced pressure. After first runnings of unchanged starting material, 126 g of fluorodichloromethyl-mercaptomethyl phenyl ketone were obtained in the form of a liquid of boiling point 128° C./0.4 mbar.

reactant | acetophenone | 2 moles, 240 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | fluorodichloromethanesulphenyl chloride | 0.64 mole, 109 g | FC(SCl)(Cl)Cl | CCl3FS
reactant | fluorodichloromethane-sulphenyl chloride | 2.36 moles, 400 g | FC(SCl)(Cl)Cl | CCl3FS
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | fluorodichloromethyl-mercaptomethyl phenyl ketone | 126 g | C1(=CC=CC=C1)C(=O)C(S)(C(Cl)Cl)F | C9H7Cl2FOS
